US05246935
A mixture of 3,4,5-trimethoxyaniline (440 mg; 2.4 mmol) in toluene (20 ml), thiophosgene (300 mg; 2.5 mmol) and triethylamine (500 mg; 5 mmol) was refluxed for 6 h. The solvent was removed under reduced pressure to give crude 3,4,5-trimethoxyphenylisothiocyanate. To the crude product was added 3-[4-(4-chlorophenyl)-1-piperazinyl]propanol (510 mg; 2.0 mmol) in toluene (40 ml) and refluxed for 16 h. The solvent was evaporated and the residue resuspended in ethyl acetate filtered and evaporated to dryness. The residue was submitted to flash chromatography on silica gel 60 eluting with toluene/ethyl acetate (1:1). The product was taken up in ethanol, which was treated with hydrogen chloride in ether to give 200 mg of the title compound. M.p. 172°-173° C. MS (70 eV): m/z 479 (M+, 0.1%), 254 (55), 225 (100), 209 (80), 182 (32).

reactant | 3,4,5-trimethoxyaniline | 2.4 mmol, 440 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | thiophosgene | 2.5 mmol, 300 mg | C(=S)(Cl)Cl | CCl2S
reactant | triethylamine | 5 mmol, 500 mg | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4,5-trimethoxyphenylisothiocyanate | COC=1C=C(C=C(C1OC)OC)N=C=S | C10H11NO3S
